US09216980B2
Preparation of 4-(3-Bromo-5-methoxyphenoxy)-1-methylpiperidine
To a suspension of sodium hydride (60% in mineral oil, 600 mg, 15.0 mmol) in DMF (20 mL) at 65° C. was slowly added a solution of 4-hydroxy-1-methylpiperidine (1.15 g, 10 mmol) in DMF (7.0 mL). After stirring for 30 minutes, a solution of 3-bromo-5-fluoroanisole (2.05 g, 10 mmol) in DMF (7.0 mL) was added and the reaction mixture was stirred at 65° C. for 24 h. The reaction mixture was allowed to cool to ambient temperature then was poured into water (200 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were loaded onto a SCX-2 cartridge, which was then washed with acetonitrile then eluted with 2N ammonia in methanol. Concentration of the basic methanolic fractions in vacuo gave the title compound (1.5 g, 50%). 1H NMR (CDCl3, 400 MHz): 6.65 (dd, J=2.2, 1.6 Hz, 1H), 6.63 (dd, J=2.3, 1.6 Hz, 1H), 6.37 (dd, J=2.3, 2.1 Hz, 1H), 4.29-4.21 (m, 1H), 3.75 (s, 3H), 2.70-2.61 (m, 2H), 2.31-2.21 (m, 5H), 2.01-1.93 (m, 2H), 1.86-1.75 (m, 2H). LCMS (Method B): RT=2.1 min, M+H+=300.

reactant | sodium hydride | 15.0 mmol, 600 mg | [H-].[Na+]
reactant | 4-hydroxy-1-methylpiperidine | 10 mmol, 1.15 g | OC1CCN(CC1)C | C6H13NO
reactant | 3-bromo-5-fluoroanisole | 10 mmol, 2.05 g | BrC=1C=C(C=C(C1)F)OC | C7H6BrFO
reactant | water | 200 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
product | 4-(3-Bromo-5-methoxyphenoxy)-1-methylpiperidine | 1.5 g, 50% | BrC=1C=C(OC2CCN(CC2)C)C=C(C1)OC | C13H18BrNO2
